US07183290B2
B.1-[4-(Trifluoromethyl)phenyl]piperidin-4-amine hydrochloride.
A round bottom flask was mixed with tert-butyl 1-[4-(trifluoromethyl)phenyl]piperidin-4-ylcarbamate (472 mg, 1.42 mmol) and a solution of 4.0 N HCl in 1,4-dioxane (20 mL). The reaction mixture was allowed to stir at RT for a period of 17.0 hours. After 17.0 hours the reaction mixture was concentrated to dryness to afford a crude solid. The resulting solid was triturated with ether and filtered to give a total of 377 mg of desired product (92% yield). The product was used without further purification.

reactant | tert-butyl 1-[4-(trifluoromethyl)phenyl]piperidin-4-ylcarbamate | 1.42 mmol, 472 mg | FC(C1=CC=C(C=C1)N1CCC(CC1)NC(OC(C)(C)C)=O)(F)F | C17H23F3N2O2
reactant | HCl | 4.0 N | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-[4-(Trifluoromethyl)phenyl]piperidin-4-amine hydrochloride | 377 mg, 92% yield | Cl.FC(C1=CC=C(C=C1)N1CCC(CC1)N)(F)F | InChI=1S/C12H15F3N2.ClH/c13-12(14,15)9-1-3-11(4-2-9)17-7-5-10(16)6-8-17;/h1-4,10H,5-8,16H2;1H
